US07713994B2
6-chloroisoquinoline-1,3(2H,4H)-dione
An amount of 2-(carboxymethyl)-4-chlorobenzoic acid (8.4 g, 39.14 mmol) and 2.82 g (47 mmol) of urea is vigorously stirred at 160° C. Solids were melted, boiled and hardened after 15 min. Continue to heat and blow nitrogen through to remove water generated from reaction until total dryness. After cooling, the solid is ground to fine powder. After successively washing with saturated NaHCO3 solution, water, methanol, ether and hexane, the powder is dried in oven (60° C.) overnight to give 2.6 g (34.0% yield) of light yellow solid: MS (ESI) m/z 194.0 (M−H)−1 Analysis for C9H6ClNO2, Calcd: C, 55.26; H, 3.09; N, 7.16. Found: C, 54.86; H, 2.96; N, 7.12

reactant | 2-(carboxymethyl)-4-chlorobenzoic acid | 39.14 mmol, 8.4 g | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)Cl | C9H7ClO4
reactant | urea | 47 mmol, 2.82 g | NC(=O)N | CH4N2O
product | 6-chloroisoquinoline-1,3(2H,4H)-dione | 34.0% yield | ClC=1C=C2CC(NC(C2=CC1)=O)=O | C9H6ClNO2
